US06180659B2
2-(3,5-Dimethoxyphenylthio)benzyl alcohol (7.9 g) was dissolved in methylene chloride (40 ml), then triphenylphosphine (11.2 g) and carbon tetrabromide (11.2 g) were added thereto, the mixture was stirred at room temperature for ten minutes, diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, water and saturated sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo. The residue was purified by a silica gel column chromatography (developing solvent; hexane:ethyl acetate=5:1) to give 2-(3,5-dimethoxyphenylthio)-benzyl bromide (9.53 g, yield of 98%).

reactant | 2-(3,5-Dimethoxyphenylthio)benzyl alcohol | 7.9 g | COC=1C=C(C=C(C1)OC)SC1=C(CO)C=CC=C1 | C15H16O3S
reactant | triphenylphosphine | 11.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 11.2 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,5-dimethoxyphenylthio)-benzyl bromide | 9.53 g, yield of 98% | COC=1C=C(C=C(C1)OC)SC1=C(CBr)C=CC=C1 | C15H15BrO2S
